US07465811B2
4-Methoxy-2,3-dihydro-1H-indole-2-carboxylic acid methyl ester
119 mg (4.90 mmol) of magnesium turnings are added to a solution of 500 mg (2.44 mmol) of 4-methoxy-1H-indole-2-carboxylic acid in 10 ml of methanol. The mixture is stirred for 3 hours in a bath at 110° C. and then for 1 hour at room temperature. 20 ml of hydrochloric acid are added at 0° C. and the mixture is stirred for one hour. 3 N ammonia solution is then added to pH 10 and the mixture is extracted with 3 times 50 ml of ethyl acetate. The organic phases are dried over magnesium sulfate, filtered and concentrated under reduced pressure. The evaporation residue is purified by chromatography on a silica column using a dichloromethane/ethyl acetate mixture (98/5, then 95/5; v/v) as the eluent to give the expected product in the form of a brown oil with a yield of 64%.

reactant | magnesium | 4.90 mmol, 119 mg | [Mg] | Mg
reactant | 4-methoxy-1H-indole-2-carboxylic acid | 2.44 mmol, 500 mg | COC1=C2C=C(NC2=CC=C1)C(=O)O | C10H9NO3
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | ammonia | 3 N | N | H3N
reactant | methanol | 10 ml | CO | CH4O
product | 4-Methoxy-2,3-dihydro-1H-indole-2-carboxylic acid methyl ester | yield of 64% | COC(=O)C1NC2=CC=CC(=C2C1)OC | C11H13NO3
